US06429207B1
N-(2-Chlorobenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate
2-Chlorobenzylamine (2.0 g, 14 mmol) was added dropwise to a suspension of 2,4,6-triphenylpyrylium tetrafluoroborate (5.1 g, 13 mmol) in dichloromethane (40 mL). The reaction mixture was stirred for 16 h. Ethanol (4 mL) and excess diethyl ether were added to precipitate the product. The precipitate was filtered and dried. This provided 6.14 g (92%) of N-(2-chlorobenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate.

reactant | 2-Chlorobenzylamine | 14 mmol, 2.0 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | 2,4,6-triphenylpyrylium tetrafluoroborate | 13 mmol, 5.1 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | Ethanol | 4 mL | C(C)O | C2H6O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(2-Chlorobenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate | F[B-](F)(F)F.ClC1=C(C[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C30H23ClN.BF4/c31-28-19-11-10-18-26(28)22-32-29(24-14-6-2-7-15-24)20-27(23-12-4-1-5-13-23)21-30(32)25-16-8-3-9-17-25;2-1(3,4)5/h1-21H,22H2;/q+1;-1
